US09216965B2
A mixture of 2,2-dimethyl-1,3-dioxane-4,6-dione (36.4 g, 253 mmol) in trimethyl orthoformate (125 mL) was stirred at 100° C. for 1.5 h. This mixture was cooled to 80° C. and 4-bromo-3-fluoroaniline (40 g, 211 mmol) was added using ACN to aid in transfer. Heated to 100° C. for 3.5 h. The reaction mixture was cooled to RT and poured into Et2O (750 mL) and stirred for a few minutes. Filtered resulting solid, washing with Et2O and dried to yield 5-(((4-bromo-3-fluorophenyl)amino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (61.41 g, 178 mmol, 85% yield) as a light yellow powder. 1H NMR (DMSO-d6) δ ppm 11.25 (d, J=14.4 Hz, 1H), 8.59 (d, J=14.4 Hz, 1H), 7.67-7.85 (m, 2H), 7.42 (dd, J=8.6, 2.0 Hz, 1H), 1.68 (s, 6H).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 253 mmol, 36.4 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 4-bromo-3-fluoroaniline | 211 mmol, 40 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | ACN | C(C)#N | C2H3N
reactant | Et2O | 750 mL | CCOCC | C4H10O
solvent | trimethyl orthoformate | 125 mL | C(OC)(OC)OC | C4H10O3
product | 5-(((4-bromo-3-fluorophenyl)amino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 178 mmol, 61.41 g, 85% yield | BrC1=C(C=C(C=C1)NC=C1C(OC(OC1=O)(C)C)=O)F | C13H11BrFNO4
